US08735379B2
To a solution of saturated HCl in CH3OH (20 mL) at RT was slowly added 5-amino-2-hydroxybenzoic acid (2 g, 13.06 mmol). The resulting mixture was stirred at (RT, 16 h) and then heated (reflux, 24 h). The mixture was cooled and the solvent was removed under reduced pressure. The residue was diluted with EtOAc (50 mL) and washed with saturated aqueous NaHCO3. The organic solution was dried over MgSO4, filtered, concentrated under reduced pressure to afford methyl 5-amino-2-hydroxybenzoate as a pale yellow solid (1.72 g, 78.5%). Mass calculated for C8H9NO3=167.16. found: [M+H]+=168.2.

reactant | HCl | Cl | ClH
reactant | 5-amino-2-hydroxybenzoic acid | 13.06 mmol, 2 g | NC=1C=CC(=C(C(=O)O)C1)O | C7H7NO3
reactant | CH3OH | 20 mL | CO | CH4O
product | methyl 5-amino-2-hydroxybenzoate | 1.72 g, 78.5% | NC=1C=CC(=C(C(=O)OC)C1)O | C8H9NO3
